Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Compazine
 
Attending: ___.
 
Chief Complaint:
abdominal wound 
 
Major Surgical or Invasive Procedure:
Abdominal wound exploration and removal of infected mesh.

 
History of Present Illness:
___ is a ___ year old female with history of lower 
abdominal desmoid tumor removal and reconstruction with mesh 
with subsequent infection and resection of mesh and replacement, 
eventually wound which required delayed primary closure. She 
presented to clinic with a small wound in the middle ofher lower 
abdominal incision site.  She is here today for abdominal wound 
exploration.

 
Past Medical History:
depression, chronic headaches, presyncope, type 2 diabetes
mellitus, hyperlipidemia, obesity, chronic urinary tract 
infections, and chronic back pain.  She has a longstanding
microcytosis with a negative workup in the past.
.
PSH
D&C, right first metatarsal bunion, cesarean section 
with placenta previa, bilateral breast reduction, bilateral ORIF 

of the hips for congenital dysplasia. 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Physical exam per PRS post operative note ___ 1844 Temp: 97.5 PO BP: 111/63 L Lying HR: 106 RR: 20 O2
sat: 100% O2 delivery: RA 
Gen: NAD, A&Ox3, lying on stretcher.
HEENT: Normocephalic. 
CV: RRR
R: Breathing comfortably on room air. No wheezing.
Abd: Lower abd with VAC in place, holding suction, trace SS
output. No surrounding erythema. 
Ext: WWP. 

 
Pertinent Results:
___ 10:20PM   GLUCOSE-210* UREA N-11 CREAT-0.7 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-25 ANION GAP-13
___ 10:20PM   estGFR-Using this
___ 10:02PM URINE  HOURS-RANDOM
___ 10:02PM URINE  UCG-NEGATIVE
.
IMAGING:
Radiology Report CT ABD & PELVIS W & W/O CONTRAST, ADDL SECTIONS 
Study Date of ___ 12:08 AM 
IMPRESSION: 
1. Interval decrease in size of the prior anterior abdominal 
wall collections. 
2. No fistula.  No hernia. 
3. Cholelithiasis, but no features of cholecystitis. 
4. Rest of the findings as described above. 

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a abdominal wound exploration and removal of 
mesh.  The patient tolerated the procedure well. 
 .
 Neuro: Post-operatively, the patient received IV pain 
medications with good effect and adequate pain control. When 
tolerating oral intake, the patient was transitioned to oral 
pain medications. 
 .
 CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
 .
 Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 .
 GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake.  Her diet was advanced when appropriate, 
which was tolerated well. She was also started on a bowel 
regimen to encourage bowel movement. Intake and output were 
closely monitored. 
 .
 ID: Post-operatively, the patient was started on IV cefazolin, 
then switched to PO cefadroxil for discharge home. The patient's 
temperature was closely watched for signs of infection. 
 .
 Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 
 .
 At the time of discharge on POD#2, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  She was discharged with wound vac in place.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
2. Carbamazepine (Extended-Release) 100 mg PO QAM 
3. Carbamazepine (Extended-Release) 200 mg PO QHS 
4. cefaDROXil 500 mg oral BID 
5. FLUoxetine 60 mg PO DAILY 
6. Gabapentin 300 mg PO QHS 
7. Gabapentin 100 mg PO BID 
8. MetFORMIN (Glucophage) 850 mg PO BID 
9. Omeprazole 20 mg PO DAILY 
10. Ondansetron 8 mg PO DAILY:PRN nausea 
11. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
12. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
13. RisperiDONE 0.5 mg PO DAILY 
14. Simvastatin 40 mg PO QPM 
15. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
16. Aspirin 81 mg PO DAILY 
17. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
18. Senna 8.6 mg PO BID:PRN Constipation - Second Line 

 
Discharge Medications:
1.  cefaDROXil 500 mg oral BID 
RX *cefadroxil 500 mg 1 capsule(s) by mouth twice a day Disp 
#*56 Capsule Refills:*2 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
3.  Simethicone 40-80 mg PO QID:PRN abdominal gas  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0 
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
7.  Aspirin 81 mg PO DAILY  
8.  Carbamazepine (Extended-Release) 100 mg PO QAM  
9.  Carbamazepine (Extended-Release) 200 mg PO QHS  
10.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
 
11.  FLUoxetine 60 mg PO DAILY  
12.  Gabapentin 300 mg PO QHS  
13.  Gabapentin 100 mg PO BID  
14.  MetFORMIN (Glucophage) 850 mg PO BID  
15.  Omeprazole 20 mg PO DAILY  
16.  Ondansetron 8 mg PO DAILY:PRN nausea  
17.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line  
18.  RisperiDONE 0.5 mg PO DAILY  
19.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
20.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
1) Infected mesh
2) Poor coping skills in setting of depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care:
 1. You will have a wound VAC dressing with a wound vac machine 
in place for discharge home.  This will remain in place until 
you come back on ___ for the OR.
 2. While VAC is in place, please clean around the VAC site and 
monitor for air leaks of the VAC
 3. A written record of the daily output from the VAC drain 
should be brought to every follow-up appointment. 
 4. You may shower daily with assistance as needed.  You should 
do this with wound vac apparatus disconnected from you.  Once 
you have showered you will need to reconnect your dressing to 
the wound vac apparatus and make sure it is functioning 
properly.
 5. No baths until after directed by your surgeon.
 .
 Activity:
 1. Avoid strenuous activity with wound vac in place.
 .
 Medications:
 1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .
 2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.
 3. Take prescription pain medications for pain not relieved by 
tylenol.
 4. Take your antibiotic as prescribed if you are discharged on 
one.
 5. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.
 6. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
 .
 Call the office IMMEDIATELY if you have any of the following:
 1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).
 2. A large amount of bleeding from the incision(s) or drain(s).
 3. Fever greater than 101.5 oF
 4. Severe pain NOT relieved by your medication.
 .
 Return to the ER if: 
 * If you are vomiting and cannot keep in fluids or your 
medications. 
 * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.
 * Any serious change in your symptoms, or any new symptoms that 
concern you.
 
Followup Instructions:
___